US04310682
37.1 g. of 5-iodo salicylamide, 43.6 g. of 2-methyl benzene, 10 g. of anhydrous sodium acetate, 1 g. of copper bronze are mixed together and heated under reflux for 4 hours. The molten mass obtained is dissolved in alcohol. Said solution is filtered and concentrated by evaporation. 5-iodo-2'-methyl salicylanilide is obtained thereby. Said compound is then dissolved in about 5 times its amount by weight of a mixture of glacial acetic acid and ethyl acetate (1:1). A solution of 40.8 g. of bromine in 30 cc. of glacial acetic acid is added to said solution to obtain 5-iodo-2'-methyl-4'-bromo salicylanilide. Resulting compound (compound No. 5) forms colorless needle-shaped crystals having properties shown in Table 5 by recrystallizing from ethanol.

reactant | 5-iodo salicylamide | IC1=CC=C(C(C(=O)N)=C1)O | C7H6INO2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
catalyst | copper bronze | [Cu] | Cu
solvent | 2-methyl benzene | CC1=CC=CC=C1 | C7H8
product | 5-iodo-2'-methyl salicylanilide | IC1=CC=C(C(C(=O)NC2=C(C=CC=C2)C)=C1)O | C14H12INO2
